US08389527B2
A solution of tetrahydro-2H-pyran-4-amine (105 mg, 1.034 mmol) and 6-chloro-N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide (50 mg, 0.103 mmol) in NMP (1 mL) was heated to 140° C. The reaction was stirred for 16 hours until starting material was consumed and then cooled to room temperature. The crude reaction product was dissolved in a small amount of MeOH and purified by reversed phase HPLC (YMC ODS-A 5 um 30×250 mm, 10-90% aqueous methanol containing 0.1% TFA, 25 mL/min, 40 min gradient, monitored at 220 nm). The product (retention time=47.580 minutes) was isolated and lyophilized to dryness. to afford N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)-6-(tetrahydro-2H-pyran-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide (7 mg, 11.57%). HPLC Rt=4.595 min (YMC S5 ODS 4.6×50 mm, 10-90% aqueous methanol containing 0.2% H3PO4, 4 min gradient, monitored at 220 nm). [M+H+]=548.0.

reactant | tetrahydro-2H-pyran-4-amine | 1.034 mmol, 105 mg | O1CCC(CC1)N | C5H11NO
reactant | 6-chloro-N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.103 mmol, 50 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl)N(CC2=CC=C(C=C2)OC)C2CC2 | C23H20Cl2N6O2
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | MeOH | CO | CH4O
product | N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)-6-(tetrahydro-2H-pyran-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 7 mg, 11.57% | ClC1=NC=CC(=C1)NC(=O)C1=CN=C2N1N=C(C=C2N(CC2=CC=C(C=C2)OC)C2CC2)NC2CCOCC2 | C28H30ClN7O3
